US05202330
a) 2-[(4-Methoxyphenyl)methyl]thio-4-methyl-3-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid 5-ethyl 1-(1-methylethyl) ester
A solution of 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester (2.0 g., 4.5 mmole) in dichloromethane (20 ml.) containing pyridine (0.71 g., 9.1 mmole) is cooled to -10° and treated dropwise with a solution of isopropyl chloroformate (0.66 g., 5.4 mmole) in dichloromethane (3 ml.). After stirring at room temperature for 16 hours, dichloromethane is added and the solution is washed with water, 1N hydrochloric acid, sodium bicarbonate, and brine. The dried solution is evaporated to give 2.6 g. of an oil. Flash chromatography using dichloromethane gives 2.3 g. of 2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, 5-ethyl 1-(1-methylethyl) ester as an oil.

reactant | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 4.5 mmole, 2.0 g | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C22H23N3O5S
reactant | pyridine | 9.1 mmole, 0.71 g | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | 5.4 mmole, 0.66 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | 2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid, 5-ethyl 1-(1-methylethyl) ester | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C | C26H29N3O7S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-[(4-Methoxyphenyl)methyl]thio-4-methyl-3-(3-nitrophenyl)-1,5(6H)-pyrimidinedicarboxylic acid 5-ethyl 1-(1-methylethyl) ester | CC(C)OC(=O)N1C(N(C(=C(C1)C(=O)OCC)C)C1=CC(=CC=C1)[N+](=O)[O-])SCC1=CC=C(C=C1)OC | C26H31N3O7S
